US05786356
(S)-4-[2-Hydroxy-3-(N,N-dibenzylamino)propoxy]-1,3-dihydro-2H-benzimidazol-2-one
(S)-[3-(N,N-Dibenzylamino)-2-hydroxypropoxy]-2,3-diaminobenzene (4.4 g, 11.6 mmol) was suspended in a mixture of toluene (60 mL) and 2N HCl (100 mL) at ambient temperature with vigorous stirring. An excess of triphosgene (17.3 g, 58.3 mmol) was added, and the stirring continued for 14 hours. The biphasic mixture was cautiously quenched and neutralized with sodium bicarbonate, causing an off-white precipitate to form at the interface. The precipitate was filtered and dried in vacuo to yield 4.35 g (93%) of a pale solid that was used without further purification. TLC, NMR and MS all indicated high purity of the intermediate.

reactant | (S)-[3-(N,N-Dibenzylamino)-2-hydroxypropoxy]-2,3-diaminobenzene | 11.6 mmol, 4.4 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@H](COC1=C(C(=CC=C1)N)N)O | C23H27N3O2
reactant | triphosgene | 58.3 mmol, 17.3 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 2N, 100 mL | Cl | ClH
product | (S)-4-[2-Hydroxy-3-(N,N-dibenzylamino)propoxy]-1,3-dihydro-2H-benzimidazol-2-one | 4.35 g, 93% | O[C@H](COC1=CC=CC=2NC(NC21)=O)CN(CC2=CC=CC=C2)CC2=CC=CC=C2 | C24H25N3O3
